US04206120
Ethyl 4-(4-methylthio-2-oxoazetidin-1-yl)-3-oxobutyrate (400 mg, 1.63 mmole) was dissolved in dry carbon tetrachloride (15 ml) and the solution was stirred and ice-cooled while chlorine (115 mg, 1.6 mmmole) in carbon tetrachloride (1.4 ml) was added in one portion. After addition of the chlorine, the cooling bath was removed and stirring was continued for 3 minutes. The solvent was removed under reduced pressure to yield ethyl 4-(4-chloro-2-oxoazetidin-1-yl)-3-oxobutyrate as a pale yellow gum (400 mg), νmax (CHCl3): 1785 (β-lactam C=O), 1750 and 1730 (keto-ester C=O) cm-1.

reactant | Ethyl 4-(4-methylthio-2-oxoazetidin-1-yl)-3-oxobutyrate | 1.63 mmole, 400 mg | CSC1CC(N1CC(CC(=O)OCC)=O)=O | C10H15NO4S
reactant | chlorine | 115 mg | ClCl | Cl2
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 1.4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 4-(4-chloro-2-oxoazetidin-1-yl)-3-oxobutyrate | 400 mg | ClC1CC(N1CC(CC(=O)OCC)=O)=O | C9H12ClNO4
